US07094801B2
4-[3E-(5-Benzo[b]thien-2-yl-2,4-dimethoxyphenyl)-acryloyl]-benzoic acid of Ex. 3 was then made into a meglumine salt by suspending the 4-[3E-(5-benzo[b]thien-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzoic acid (4.45 g, 10 mmol) and N-methyl-D-glucamine (1.95 g, 10 mmol) in THF (100 mL). The mixture was stirred at room temperature for 5 minutes. Then, ethanol (100 mL) was added. This mixture was stirred at room temperature for 30 minutes. THF (20 mL) and ethanol (20 mL) were added and the mixture was heated slightly until it became a solution. This solution was stirred for 30 minutes and evaporated to a yellow foam. Crystallization from methanol gave the desired 4-[3E-(5-benzo[b]thien-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzoic acid N-methyl-D-glucamine salt as a yellow solid (4 g, 63%), mp 75–80° C. (changing forms). 1H NMR (300 MHz, DMSO-d6) δ 8.39 (s, 1H), 8.14 (d, 2H), 8.02–8.10 (m, 3H), 7.94–7.98 (m, 3H), 7.86 (d, 1H), 7.36 (m, 2H), 6.89 (s, 1H), 4.06 (s, 3H), 4.04 (s, 3H), 3.94 (m, 1H), 3.71 (d, 1H), 3.61 (m, 1H), 3.39–3.55 (m, 3H), 3.04 (m, 1H), 2.95 (m, 1H), 2.54 (s, 3H). Anal. Calculated for C33H37NO10S.1.3H2O: C, 59.77; H, 6.02; N, 2.11; S, 4.84; found: C, 59.84; H, 5.75; N, 2.05; S, 4.70; Parent EIMS m/z=443 (M+).

reactant | 4-[3E-(5-Benzo[b]thien-2-yl-2,4-dimethoxyphenyl)-acryloyl]-benzoic acid | S1C2=C(C=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OC)OC)C=CC=C2 | C26H20O5S
reactant | meglumine | N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | 4-[3E-(5-benzo[b]thien-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzoic acid | 10 mmol, 4.45 g | S1C2=C(C=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OC)OC)C=CC=C2 | C26H20O5S
reactant | N-methyl-D-glucamine | 10 mmol, 1.95 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[3E-(5-benzo[b]thien-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-benzoic acid N-methyl-D-glucamine salt | 4 g, 63% | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.S1C2=C(C=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OC)OC)C=CC=C2 | InChI=1S/C26H20O5S.C7H17NO5/c1-30-22-15-23(31-2)20(25-14-19-5-3-4-6-24(19)32-25)13-18(22)11-12-21(27)16-7-9-17(10-8-16)26(28)29;1-8-2-4(10)6(12)7(13)5(11)3-9/h3-15H,1-2H3,(H,28,29);4-13H,2-3H2,1H3/b12-11+;/t;4-,5+,6+,7+/m.0/s1
